US06353010B1
4-Methoxy-2-trifluoromethylbenzimidazole
A solution of 2,3-diaminoanisole (1.0 g) in trifluoroacetic acid (15 ml) was refluxed for 5 h and then stirred at room temperature overnight. Excess trifluoroacetic acid was removed in vacuo and the residue partitioned between ethyl acetate (50 ml) and water (50 ml). The organic phase was washed with saturated sodium bicarbonate solution (50 ml) and water (50 ml). Drying over anhydrous sodium sulfate and removal of the solvent in vacuo gave a brown residue. Purification by column chromatography eluting with 50% ethyl acetate in hexane gave the title compound as a yellow solid (1.4 g).

reactant | 2,3-diaminoanisole | 1.0 g | NC1=C(C=CC=C1N)OC | C7H10N2O
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Methoxy-2-trifluoromethylbenzimidazole | 1.4 g | COC1=CC=CC=2N=C(NC21)C(F)(F)F | C9H7F3N2O
